US04194047
A mixture of 1.0 g. of N-(1-buten-3-yl)formamide and one equivalent of ethylchloroformate is stirred under N2 for 4 hours during which time CO2 is evolved. The solution is stirred under reduced pressure for 3 hours to remove any unreacted ethylchloroformate, and a residue of ethyl-N-(1-buten-3-yl)formimidate is obtained.

reactant | N-(1-buten-3-yl)formamide | C=CC(C)NC=O | C5H9NO
reactant | ethylchloroformate | one equivalent | C(C)OC(=O)Cl | C3H5ClO2
reactant | CO2 | C(=O)=O | CO2
product | ethyl-N-(1-buten-3-yl)formimidate | C(C)OC=NC(C=C)C | C7H13NO
